US07514566B2
To a solution of N-hydroxyacetamide (0.02 g, 0.3 mmol) in 1.5 mL of DMF, was added potassium tert-butoxide (1.0 M in THF (0.3 mL, 0.3 mmol)). The mixture was stirred for 30 minutes and then 5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)-propylamino)thiazol-5-yl)-2-fluorobenzonitrile (0.086 g, 0.2 mmol) was added in 1.5 mL of DMF. The mixture was stirred for 12 hours and was then diluted with 20 mL of EtOAc. The organic layer was washed with 10 mL of brine and was then dried over MgSO4. Filtration and concentration under reduced pressure, followed by HPLC purification (95:5 to 70:30 water:MeCN over 50 minutes) afforded 5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)-propylamino)thiazol-5-yl)benzo[d]isoxazol-3-amine (0.018 g, 0.04 mmol, 20% yield) as an amorphous solid. 1H NMR (400 MHz DMSO-d6) δ ppm 7.84 (s, 1H), 7.63-7.67 (m, 1H), 7.65 (d, 9.1 Hz, 2H), 7.50 (d, J=8.0 Hz, 2H), 7.40 (d, J=8.7 Hz, 1H), 7.25 (s, 1H), 5.51 (s, 2H), 3.52-3.43 (m, 2H), 3.38-3.32 (m, 1H), 3.03 (dd, J=5.3, 13.7 Hz, 1H), 2.82 (dd, J=7.5, 13.7 Hz, 1H). HRMS (M+H) for C20H18F3N5OS calc. 434.12569, obs. 434.12614.

reactant | N-hydroxyacetamide | 0.3 mmol, 0.02 g | ONC(C)=O | C2H5NO2
reactant | potassium tert-butoxide | 0.3 mmol, 1.0 M, 0.3 mL | CC(C)([O-])C.[K+]
reactant | 5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)-propylamino)thiazol-5-yl)-2-fluorobenzonitrile | 0.2 mmol, 0.086 g | N[C@H](CNC=1SC(=CN1)C=1C=CC(=C(C#N)C1)F)CC1=CC=C(C=C1)C(F)(F)F | C20H16F4N4S
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)-propylamino)thiazol-5-yl)benzo[d]isoxazol-3-amine | 0.04 mmol, 0.018 g, 20% yield | N[C@H](CNC=1SC(=CN1)C=1C=CC2=C(C(=NO2)N)C1)CC1=CC=C(C=C1)C(F)(F)F | C20H18F3N5OS
